US07001899B2
Preparation of {6-(benzoylamino-methyl)-3-[(isoquinoline-1-carbonyl)-amino]-2-oxo-2,3,4,7-tetrahydro-azepin-1-yl}-acetic acid methyl ester (30):
To a solution of {6-(aminomethyl)-3-[(isoquinoline-1-carbonyl)-amino]-2-oxo-2,3,4,7-tetrahydro-azepin-1-yl}-acetic acid methyl ester, 29, (0.14 g, 0.37 mmol) in THF(1 mL) is added benzoyl chloride (80 μl, 0.75 mmol) and triethyl amine (0.71 mL, 4.99 mmol). The reaction is complete with a few minutes. Methanol (5 mL) is added to the reaction mixture and then the solvents are removed in vacuo to provide a residue which is purified by HPLC to afford 84 mg (46% yield) of the desired product. 1H NMR (CDCl3) δ 9.37–9.33 (d, J=9.4 Hz, 1H), 9.06–9.03 (d, J=5.5 Hz, 1H), 7.73–7.64 (m, 4H), 7.59–7.48 (m, 2H), 7.41–7.48 (m, 4H), 5.68 (bs, 1H), 5.37–5.30 (m, 1H), 4.644.57 (d, d, J=17.5, 2.37 Hz, 1H), 4.4.6–4.40 (d, J=17.6 Hz, 1H), 4.15–4.08 (d, d, J=14.5, 6.9 Hz, 1H), 3.82–3.76 (d, J=17.6 Hz, 1H), 3.76–3.70 (d, d, J=14.7 Hz, 1H), 3.42 (s, 3H), 3.38–3.33 (d, J=17.6 Hz, 1H), 2.81–2.76 (m, 1H), 2.35–2.25 (d, d, J=16.3, 14.2 Hz, 1H); 13C (CDCl3) 172.6, 170.5, 168.0, 165.9, 148.2, 141.0, 137.7, 134.3, 133.8, 132.4, 132.3, 132.0, 130.7, 129.0, 128.9, 127.7, 127.6, 127.5, 127.2, 124.7, 52.6, 50.5, 49.3, 49.1, 46.7, 32.6; MS 487 (M+H).

reactant | {6-(aminomethyl)-3-[(isoquinoline-1-carbonyl)-amino]-2-oxo-2,3,4,7-tetrahydro-azepin-1-yl}-acetic acid methyl ester | COC(CN1C(C(CC=C(C1)CN)NC(=O)C1=NC=CC2=CC=CC=C12)=O)=O | C20H22N4O4
reactant | benzoyl chloride | 0.75 mmol, 80 μl | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | triethyl amine | 4.99 mmol, 0.71 mL | C(C)N(CC)CC | C6H15N
reactant | Methanol | 5 mL | CO | CH4O
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | {6-(benzoylamino-methyl)-3-[(isoquinoline-1-carbonyl)-amino]-2-oxo-2,3,4,7-tetrahydro-azepin-1-yl}-acetic acid methyl ester | 84 mg, 46% yield | COC(CN1C(C(CC=C(C1)CNC(C1=CC=CC=C1)=O)NC(=O)C1=NC=CC2=CC=CC=C12)=O)=O | C27H26N4O5
